US08871782B2
Under a nitrogen atmosphere, 5-bromovaleryl chloride (4.0 mL, 30 mmol) was added dropwise to a solution of morpholine (3.13 mL, 36 mmol) and triethylamine (6.25 mL, 45 mmol) in anhydrous THF (200 mL), and the reaction was stirred for 3.5 hours. Water (100 mL) was added, and the resulting solution was extracted with ethyl acetate (250 mL+150 mL). The combined extracts were washed with aqueous hydrogen chloride (100 mL of 1 N), water (60 mL), and brine (100 mL); dried over magnesium sulfate; filtered; concentrated under reduced pressure; and further dried under high vacuum to provide 6.60 g of 4-(5-bromopentanoyl)morpholine as a yellow oil.

reactant | 5-bromovaleryl chloride | 30 mmol, 4.0 mL | BrCCCCC(=O)Cl | C5H8BrClO
reactant | morpholine | 36 mmol, 3.13 mL | N1CCOCC1 | C4H9NO
reactant | triethylamine | 45 mmol, 6.25 mL | C(C)N(CC)CC | C6H15N
reactant | Water | 100 mL | O | H2O
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | 4-(5-bromopentanoyl)morpholine | 6.60 g | BrCCCCC(=O)N1CCOCC1 | C9H16BrNO2
